US09359354B2
a. 5-tert-Butyl-2-(2-methoxyethyl)-2H-pyrazol-3-ylamine (Intermediate 22b)
A stirred suspension of (2-methoxyethyl) hydrazine oxalic acid (0.50 g, 2.77 mmol) and 4,4-dimethyl-3-oxopentanenitrile (0.347 g, 2.77 mmol) in ethanol (6 mL) was heated at 85° C. for 4.5 h during which time all solids dissolved. The reaction mixture was allowed to cool overnight and then the solvent was evaporated. The residue was dissolved in dichloromethane (20 mL) and washed with saturated aqueous NaHCO3 (10 mL). The organic layer was separated using a phase separator cartridge and evaporated. The residual oil was dissolved in diethyl ether and evaporated to afford the title compound (0.538 g, 98%) as a solid. 1H NMR (300 MHz, CDCl3): 1.26 (9H, s), 3.33 (3H, s), 3.67 (2H, t, J 4.3 Hz), 3.95 (2H, br s), 4.13 (2H, t, J 4.6 Hz), 5.36 (1H, s).

reactant | (2-methoxyethyl) hydrazine oxalic acid | 2.77 mmol, 0.50 g | C(C(=O)O)(=O)O.COCCNN
reactant | 4,4-dimethyl-3-oxopentanenitrile | 2.77 mmol, 0.347 g | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 5-tert-Butyl-2-(2-methoxyethyl)-2H-pyrazol-3-ylamine | 0.538 g, 98% | C(C)(C)(C)C=1C=C(N(N1)CCOC)N | C10H19N3O
